US07351719B2
Z2b) (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid
84 mL of 2 M aqueous NaOH was added to a solution of 23.97 g (0.084 mol) of ethyl (2-chloro-4-trifluoromethyl-phenoxy)-acetate in 200 mL EtOH and the mixture was refluxed for 1 hour. EtOH was concentrated by evaporation i. vac., the residue was diluted with ice water and acidified with 2 M aqueous HCl. The precipitate formed was filtered off, washed with water and dried at 70° C. i. vac.

reactant | NaOH | 2 M, 84 mL | [OH-].[Na+]
reactant | ethyl (2-chloro-4-trifluoromethyl-phenoxy)-acetate | 0.084 mol, 23.97 g | ClC1=C(OCC(=O)OCC)C=CC(=C1)C(F)(F)F | C11H10ClF3O3
solvent | EtOH | 200 mL | CCO | C2H6O
product | (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)C(F)(F)F | C9H6ClF3O3
